US04966967
N-[4-[2-(3,4,5-Trimethoxyphenyl)ethyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonin-9-yl]methanesulfonamide
In a manner similar to example 4, react N-(3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonin-9-yl)methanesulfonamide, 3,4,5-trimethoxybenzeneacetaldehyde, and NaBH3CN to obtain the title compound.

reactant | N-(3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonin-9-yl)methanesulfonamide | O1CCNCCOC2=C1C=CC(=C2)NS(=O)(=O)C | C11H16N2O4S
reactant | 3,4,5-trimethoxybenzeneacetaldehyde | COC=1C=C(C=C(C1OC)OC)CC=O | C11H14O4
reactant | NaBH3CN | [BH3-]C#N.[Na+]
product | N-[4-[2-(3,4,5-Trimethoxyphenyl)ethyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonin-9-yl]methanesulfonamide | COC=1C=C(C=C(C1OC)OC)CCN1CCOC2=C(OCC1)C=CC(=C2)NS(=O)(=O)C | C22H30N2O7S
